US06008213
b) 2-[[2-(Boc-amino)ethyl]amino]pyridine-N-oxide
A mixture of mono-Boc-1,2-ethylenediamine (5.83 g, 36.39 mmole), 2-chloropyridine-N-oxide hydrochloride (7.25 g, 43.67 mmole), NaHCO3 (15.29 g, 182 mmole), and tert-amyl alcohol (36 mL) was heated at reflux. After 47 hr, the dark brown mixture was cooled, diluted with CH2Cl2 (100 mL), and suction filtered to remove insoluble materials. The filtrate was concentrated and reconcentrated from toluene. Silica gel chromatography (10% MeOH/CHCl3) gave impure title compound (8.23 g, 89%) as a yellow solid which was used without further purification: TLC (10% MeOH/CHCl3) Rf 0.42; 1H NMR (250, CDCl3) δ 8.16 (dd, J=6.5, 1.3 Hz, 1 H), 7.05-7.30 (m, 2 H), 6.68 (br d, J=8.6 Hz, 1 H), 6.50-6.65 (m, 1 H), 5.70-5.95 (m, 1 H), 3.35-3.60 (m, 4 H), 1.44 (s, 9 H); MS (ES) m/e 254 (M+H)+.

reactant | mono-Boc-1,2-ethylenediamine | 36.39 mmole, 5.83 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | 2-chloropyridine-N-oxide hydrochloride | 43.67 mmole, 7.25 g | Cl.ClC1=[N+](C=CC=C1)[O-]
reactant | NaHCO3 | 182 mmole, 15.29 g | C(=O)(O)[O-].[Na+]
reactant | tert-amyl alcohol | 36 mL | C(C)(C)(CC)O | C5H12O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[[2-(Boc-amino)ethyl]amino]pyridine-N-oxide | 8.23 g, 89% | C(=O)(OC(C)(C)C)NCCNC1=[N+](C=CC=C1)[O-] | C12H19N3O3
